datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[C:61]1=[N:10][C:64]2=[C:63](C=CC=C2)[NH:62]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63]3=[C:64]2C=CC=C3)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[CH:72]1>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]([N+:11](=[O:12])[O-:62])[C:71]1=[CH:72][C:73]([N+](=O)[O-])=[CH:74][CH:82]=[CH:83]1 10,11=10,20;12=11,12;20,21=21"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33].[CH:10](=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)\[N+:81](=[O:82])[O-:92]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].FC(F)(F)[S:20][CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[N+:81](=[O:82])[O-:92] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C-:10]1[C:61](=[O:62])[O:72]CC[C:81]1=[O:82].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>C[C:10]1([CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC2=CC=CC=C2)[O-:25])[C:31](=[O:32])[N:33](C)C)[C:61](=[O:62])[O:72]CC[C:81]1=[O:82] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>CC[O:33][C:31]([C:20]1([H:10])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32].O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1CCCCCCC[C:11](=[CH2:10])CCCCCC1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11]2CCCCCCCCCCCCCC2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;20,21=21"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20"
"CC[O:72][C:61]([S-:10])=[S:62].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:72][C:61]([S:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[S:62] 10=20;20,21=21,22;22,23=23"
"[H][C:11]1([H:10])[C:12](C(=O)OCC)=[CH:13][NH:14][CH:63]=[C:64]1C(=O)OCC.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[H][C:11]1=[C:12](C(=O)OCC)[CH:13]=[NH+:14][CH:63]=[C:64]1C(=O)OCC.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([H:10])([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10,11=10,20;12,13=11,12;14=13,14"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:12][CH:11](C)[H:10]>>C1COC2(CC[C:20]([H:10])([O-:21])CC2)O1.CC[O+:12]=[CH:11]C 10,11=10,20;12=11,12;20,21=21"
"C[N+:21](C)=[CH2:20].C[Si:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>C[N:21](C)[CH2:20][CH:10]1C2=C(C=CC=C2)[CH:62]([Si:63](C)(C)C)[CH+:11]1 10,11=10,20;20,21=21"
"C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[C:11]1=[CH:12][C:13](C)=[NH+:14][CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
